US07060844B2
A solution of methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester (50 mg, 0.135 mmol) and morpholine (118 μl, 1.35 mmol) in dioxane (0.8 ml) was heated at 70° C. for 40 minutes and then at 60° C. for 18 hours. The reaction was partitioned between EtOAc and water. The EtOAc layer was washed with water, brine, dried with anhydrous Na2SO4 and rotary evaporated to give a yellow film. The yellow film was chromatographed (CHCl3 to 2% MeOH/CHCl3 gradient) to give 3-[3-(2-morpholin-4-yl-ethyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one as a yellow solid (37 mg, 76%).

reactant | methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester | 0.135 mmol, 50 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CCOS(=O)(=O)C | C19H17NO5S
reactant | morpholine | 1.35 mmol, 118 μl | N1CCOCC1 | C4H9NO
solvent | dioxane | 0.8 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(2-morpholin-4-yl-ethyl)-3H-isobenzofuran-1-ylidene]-1,3-dihydro-indol-2-one | 37 mg, 76% | N1(CCOCC1)CCC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O | C22H22N2O3
